US07482341B2
N-[6-(4-Fluoro-benzyloxymethyl)-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.058 g) and 3-(trifluoromethyl)-benzenesulfonyl chloride (0.067 g) as a light yellow gum (0.08g). MS (ESI−): 439.1 ([M−H]−)

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.058 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 3-(trifluoromethyl)-benzenesulfonyl chloride | 0.067 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-[6-(4-Fluoro-benzyloxymethyl)-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide | FC1=CC=C(COCC2=CC=CC(=N2)NS(=O)(=O)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C20H16F4N2O3S
